US04598046
Strains shown in the following Table 2 were respectively cultured in a similar manner to that described in Example 3. After completion of the culturing, on each occasion, the microbial cells were collected by centrifugation (8,000 r.p.m./10 min.) of the cultured broth and were then subjected to ultrasonic treatment (90 KHz/5 min.) to prepare a cell-free extract. This cell-free extracted solution (0.05 ml) was added to a 50 mM tris buffer solution (9.95 ml; pH 7.5) containing L-glutamic acid (25 mM), L-cysteine (25 mM), glycine (50 mM), magnesium chloride (10 mM), acetylphosphate (10 mM) and ATP (5 mM) to effect the enzymatic reaction at 37° C. for one hour. After completion of the reaction, the amount of glutathione formed in the reaction solution was measured to determine the accumulated amount of glutathione per one mg of protein. The results are shown in the following table.

reactant | L-glutamic acid | 25 mM | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | L-cysteine | 25 mM | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | glycine | 50 mM | NCC(=O)O | C2H5NO2
reactant | magnesium chloride | 10 mM | [Cl-].[Mg+2].[Cl-]
reactant | acetylphosphate | 10 mM | C(C)(=O)OP(=O)([O-])[O-]
reactant | ATP | 5 mM | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
product | glutathione | N[C@H](C(=O)O)CCC(=O)N[C@@H](CS)C(=O)NCC(=O)O | C10H17N3O6S
